US07932394B2
(Step 4) Production of 6-bromo-5-[4-(methylsulfonyl)phenoxy]-2-(2-pyridinyl)-1H-benzimidazole
145 ml of N-{4-bromo-5-(4-(methylsulfonyl)phenoxy]-2-nitrophenyl}-2-pyridinecarboxamide was suspended in 1 ml of dimethylformamide, 1 ml of methanol and 0.5 ml of concentrated hydrochloric acid, and 327 mg of tin(II) chloride dihydrate was added thereto and stirred at 70° C. for 30 minutes. The reaction liquid was neutralized with aqueous sodium bicarbonate solution, and diluted with chloroform. The insoluble matter was taken out through filtration, the filtrate was washed with saturated saline water, and dried with anhydrous magnesium sulfate. The solvent was evaporated away to obtain 121 mg of the entitled compound as a pale yellow crystal.

reactant | N-{4-bromo-5-(4-(methylsulfonyl)phenoxy]-2-nitrophenyl}-2-pyridinecarboxamide | 145 ml | BrC1=CC(=C(C=C1OC1=CC=C(C=C1)S(=O)(=O)C)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C19H14BrN3O6S
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | tin(II) chloride dihydrate | 327 mg | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1 ml | CO | CH4O
product | 6-bromo-5-[4-(methylsulfonyl)phenoxy]-2-(2-pyridinyl)-1H-benzimidazole | 121 mg | BrC=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)S(=O)(=O)C | C19H14BrN3O3S
